US08476302B2
Di-t-butyl dicarbonate (10.8 g, 49.5 mmol) was added to a solution of 4-(benzyloxy)benzohydrazide (10 g, 41.3 mmol) in dichloromethane (206 mL) at 0° C. The resulting mixture was stirred for 2 d at room temperature, then concentrated and the residue was triturated with diethyl ether to yield tert-butyl 2-(4-(benzyloxy)benzoyl)hydrazinecarboxylate. A mixture of tert-butyl 2-(4-(benzyloxy)benzoyl)hydrazinecarboxylate (13.7 g, 40 mmol) and Lawesson's reagent (8.1 g, 20.0 mmol) in THF (200 mL) THF was stirred for 2 d. Solvent was removed under vacuum and the residue was chromatographed (silica gel, heptane-ethyl acetate) to yield tert-butyl 2-(4-(benzyloxy)phenylcarbonothioyl)hydrazinecarboxylate. A solution of tert-butyl 2-(4-(benzyloxy)phenylcarbonothioyl)hydrazinecarboxylate(12 g) in 1,4-dioxane (34 mL) and 4.0 N HCl (34 mL) in 1,4-dioxane was stirred for 5 h. The resulting solid was collected and washed with diethyl ether to yield 4-(benzyloxy)benzothiohydrazide.

reactant | tert-butyl 2-(4-(benzyloxy)phenylcarbonothioyl)hydrazinecarboxylate | 12 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=S)NNC(=O)OC(C)(C)C | C19H22N2O3S
solvent | 1,4-dioxane | 34 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4.0 N, 34 mL | Cl | ClH
product | 4-(benzyloxy)benzothiohydrazide | C(C1=CC=CC=C1)OC1=CC=C(C(NN)=S)C=C1 | C14H14N2OS
